US04963553
A mixture of 7.0 g of 3'-actamido-3-(N,N-dimethylamino)acrylophenone and 3.3 g. of 3-amino-4-cyanopyrazole in 100 ml of acetic acid was heated at reflux for 8 hours. Crystals that formed on cooling were filtered and dried to give 7.4 g. of N-[3-(3-cyano-pyrazolo[1,5-a]pyrimidin-7-yl)phenyl]acetamide, m.p. 254°-256° C. This was reacted with 14.8 g of sodium cyanoborohydride in 50 ml of acetic acid to give 3.0 g of N-[3-(3-cyano-4,5-dihydropyrazolo[1,5-a]pyrimidin-7-yl)phenyl]acetamide, m.p. 251°-254° C. This is reacted with chloroacetic anhydride and sodium carbonate in toluene as in Example 3 to give the title compound.

reactant | 3'-actamido-3-(N,N-dimethylamino)acrylophenone | 7.0 g | C(C)(=O)NC=1C=C(C=CC1)C(C=CN(C)C)=O | C13H16N2O2
reactant | 3-amino-4-cyanopyrazole | NC1=NNC=C1C#N | C4H4N4
reactant | N-[3-(3-cyano-pyrazolo[1,5-a]pyrimidin-7-yl)phenyl]acetamide | C(#N)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)NC(C)=O | C15H11N5O
reactant | sodium cyanoborohydride | 14.8 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-[3-(3-cyano-4,5-dihydropyrazolo[1,5-a]pyrimidin-7-yl)phenyl]acetamide | 3.0 g | C(#N)C=1C=NN2C1NCC=C2C=2C=C(C=CC2)NC(C)=O | C15H13N5O
